US08134015B2
5-Methoxy-2-nitro-benzoic acid (2.5 g) was dissolved in N,N-dimethylformamide (compound A′) (40 ml). Potassium carbonate (4.5 g) and methyl iodide (2.5 ml) were added to the solution at room temperature, and the mixture was then stirred at that temperature for 30 min. After the completion of the reaction, distilled water was added thereto at room temperature, and the mixture was then subjected to separatory extraction with ethyl acetate. The organic layer was washed with saturated brine, was dried over sodium sulfate, and was then concentrated under the reduced pressure. The residue was purified by column chromatography eluted with a hexane-acetone system to give 5-methoxy-2-nitrobenzoic acid methyl ester (2.7 g, yield 100%).

reactant | 5-Methoxy-2-nitro-benzoic acid | 2.5 g | COC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO5
reactant | Potassium carbonate | 4.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.5 ml | CI | CH3I
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | 2-amino-4,5-bis-(2-methoxy-ethoxy)-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C(=C1)OCCOC)OCCOC)N)=O | C15H23NO6
product | 5-methoxy-2-nitrobenzoic acid methyl ester | 2.7 g, yield 100% | COC(C1=C(C=CC(=C1)OC)[N+](=O)[O-])=O | C9H9NO5
